US08017775B2
7,8-Difluoro-2,2,4-trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one (Reference Compound No. 1-2)
In a pressure tube, 8-amino-3,4-difluorobenzo[c]chromen-6-one (Reference Compound No. 1-2-(4), 2.30 g, 9.26 mmol) was dissolved in acetone (60 mL), then iodine (939 mg, 3.70 mmol) was added thereto, then the pressure tube was sealed, and then the reaction mixture was stirred at 110° C. for 5 days. After cooling down, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-methanol) to give the titled reference compound (0.95 g) as a yellow solid. (Yield 31%)

reactant | 8-amino-3,4-difluorobenzo[c]chromen-6-one | 9.26 mmol, 2.30 g | NC=1C=CC2=C(C(OC3=C(C(=CC=C23)F)F)=O)C1 | C13H7F2NO2
reactant | iodine | 3.70 mmol, 939 mg | II | I2
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 7,8-Difluoro-2,2,4-trimethyl-1,2-dihydro-6-oxa-1-azachrysen-5-one | 0.95 g, Yield 31% | FC1=C2OC(C3=C4C(=CC(NC4=CC=C3C2=CC=C1F)(C)C)C)=O | C19H15F2NO2
